US07491730B2
[6-Cyclopropyl-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-(1H-indazol-3-yl)-amine (I-4)
A mixture of 4-chloro-6-cyclopropyl-2-(2-trifluoromethyl-phenyl)-pyrimidine (0.08 g, 0.27 mmol) and 1H-indazol-3-ylamine (0.036 g, 0.41 mmol) was heated neat at 160-170° C. for 6 hours. The residue was cooled and dissolved in N-methylpyrrolidinone (2 mL), poured into water (30 mL) and sodium bicarbonate (5 mL) then filtered, washing with water and ether. The collected precipitate and the ether wash were combined and concentrated. Purification by flash chromatography [SiO2, methanol:dichloromethane (2:98)] provided the title compound (0.017 g, 15% yield) as a pale yellow solid. 1H-NMR (500 MHz, DMSO-d6) δ 12.6 (br s, 1H), 10.2 (br s, 1H), 8.00 (d, J=8.1 Hz, 2H), 7.81 (d, J=7.9 Hz, 1H), 7.71 (m, 3H), 7.65 (t, J=7.3 Hz, 1H), 7.45 (d, J=8.4 Hz, 1H), 7.36 (t, J=7.5 Hz, 1H), 7.06 (t, J=7.5 Hz, 1H), 2.04 (m, 1H), 1.01 (m, 2H), 0.96 (m, 2H) ppm; LC-MS 396.10 (M+H); Rt (Method A) 3.122 minutes.

reactant | 4-chloro-6-cyclopropyl-2-(2-trifluoromethyl-phenyl)-pyrimidine | 0.27 mmol, 0.08 g | ClC1=NC(=NC(=C1)C1CC1)C1=C(C=CC=C1)C(F)(F)F | C14H10ClF3N2
reactant | 1H-indazol-3-ylamine | 0.41 mmol, 0.036 g | N1N=C(C2=CC=CC=C12)N | C7H7N3
reactant | water | 30 mL | O | H2O
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | [6-Cyclopropyl-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-(1H-indazol-3-yl)-amine | 0.017 g, 15% yield | C1(CC1)C1=CC(=NC(=N1)C1=C(C=CC=C1)C(F)(F)F)NC1=NNC2=CC=CC=C12 | C21H16F3N5
